US07402684B2
4-[(S)-2-(4-Benzyl-phenoxymethyl)-pyrrolidin-1-yl]-butan-1-ol:
To a solution of 4-[(S)-2-(4-benzyl-phenoxymethyl)-pyrrolidin-1-yl]-butyric acid methyl ester (0.37 g, 1 mmol) in toluene (2 mL) was added 1.5M diisobutylaluminum hrdride in toluene (2 mL, 3 mmol) at −60° C. and then stirred the reaction at −30 to −20° C. for 2 h, followed by addition of 15% AcOH dropwise. The reaction was stirred at room temperature for 30 minutes and formed white solid was filtered and washed with acetone. The filtrate was concentrated in vacuo to yield the title compound as a white solid (0.22 g, 79%); MS; m/z 340.8 (M+H). 1H NMR (400 HMz, CDCl3) δ 1.61-2.26 (m, 8H), 2.79 (m, 1H), 2.85 (m, 1H), 3.25 (m, 2H), 3.42 (m, 2H), 3.54 (m, 1H), 3.68 (m, 1H), 3.75 (m, 1H), 3.92 (s, 2H), 6.82 (d, J=8.8 Hz, 2H), 7.09-7.21 (m, 5H), 7.28 (m, 2H).

reactant | 4-[(S)-2-(4-benzyl-phenoxymethyl)-pyrrolidin-1-yl]-butyric acid methyl ester | 1 mmol, 0.37 g | COC(CCCN1[C@@H](CCC1)COC1=CC=C(C=C1)CC1=CC=CC=C1)=O | C23H29NO3
reactant | diisobutylaluminum | 1.5M | C(C(C)C)[Al]CC(C)C
reactant | AcOH | CC(=O)O | C2H4O2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 mmol, 2 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[(S)-2-(4-Benzyl-phenoxymethyl)-pyrrolidin-1-yl]-butan-1-ol | 0.22 g, 79% | C(C1=CC=CC=C1)C1=CC=C(OC[C@H]2N(CCC2)CCCCO)C=C1 | C22H29NO2
